US06057329
N-(3,4,5-Trimethoxyphenyl)-thieno[2,3-h]-5,6-dihydroquinazoline-2-amine
The 5-(dimethylaminomethylene)-4-oxo-4,5,6,7-tetrahydrobenzo[b]-thiophene starting material was prepared from 4-keto-4,5,6,7-tetrahydrothianaphthene (5.0 g, 33 mmol) and N,N-dimethylformamide diethyl acetal (15 ml, 87.5 mmol) to give the desired product as large yellow crystals (2.3 g) after recrystallisation from ethyl acetate m.p. 106.9°. MS (ES+) 208 (MH+, 100%).

reactant | 4-keto-4,5,6,7-tetrahydrothianaphthene | 33 mmol, 5.0 g | C1CC2=C(C=CS2)C(=O)C1 | C8H8OS
reactant | N,N-dimethylformamide diethyl acetal | 87.5 mmol, 15 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 5-(dimethylaminomethylene)-4-oxo-4,5,6,7-tetrahydrobenzo[b]-thiophene | CN(C)C=C1C(C2=C(SC=C2)CC1)=O | C11H13NOS
